US04673746
29.3 g of 2-bromopyridine in 150 ml of dry THF is added to 75 ml of 2.6M n-butyllithium that was chilled to -65° C. 2,3-dichloro-4-methoxybenzaldehyde (38.0 g) is then added in 300 ml of THF and the reaction mixture allowed to come to room temperature. It is poured into H2O and the crystalline product filtered off, washed with ether and dried to give α-(2,3-dichloro-4-methoxyphenyl)-2-pyridinemethanol, mp 174°-176° C.

reactant | 2-bromopyridine | 29.3 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 2.6M, 75 ml | C(CCC)[Li]
reactant | 2,3-dichloro-4-methoxybenzaldehyde | 38.0 g | ClC1=C(C=O)C=CC(=C1Cl)OC | C8H6Cl2O2
reactant | H2O | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | α-(2,3-dichloro-4-methoxyphenyl)-2-pyridinemethanol | ClC1=C(C=CC(=C1Cl)OC)C(O)C1=NC=CC=C1 | C13H11Cl2NO2
